US08084620B2
A mixture of 3-bromo-2-methylaniline (372 mg, 2.00 mmol), 1,2-bis(chloromethyl)benzene (385 mg, 2.20 mmol), and potassium carbonate (304 mg, 2.20 mmol) in water (2 mL) was heated via microwave irradiation in a sealed tube at 120° C. for 25 min. The mixture was extracted with EtOAc and the organic phase was washed with water, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from hexane to 30:70 EtOAc-hexane) to provide 2-(3-bromo-2-methylphenyl)isoindoline as a light yellow oil (360 mg, 63%). Mass spectrum m/z 288, 290 (M+H)+.

reactant | 3-bromo-2-methylaniline | 2.00 mmol, 372 mg | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 1,2-bis(chloromethyl)benzene | 2.20 mmol, 385 mg | ClCC1=C(C=CC=C1)CCl | C8H8Cl2
reactant | potassium carbonate | 2.20 mmol, 304 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 mL | O | H2O
product | 2-(3-bromo-2-methylphenyl)isoindoline | 360 mg, 63% | BrC=1C(=C(C=CC1)N1CC2=CC=CC=C2C1)C | C15H14BrN
